US07405305B2
5-Bromoimidazo[1,2-a]pyridine
Add saturated sodium bicarbonate (300 ml) to a suspension of 5-bromoimidazo[1,2-a]pyridine hydrobromide (13.0 g, 46.96 mmol) in ethyl acetate. Separate the organic layer, wash with saturated sodium bicarbonate, dry over magnesium sulfate, and concentrate under reduced pressure to give 9.7 g (100%) of the title compound as a white solid.

reactant | sodium bicarbonate | 300 ml | C([O-])(O)=O.[Na+]
reactant | 5-bromoimidazo[1,2-a]pyridine hydrobromide | 46.96 mmol, 13.0 g | Br.BrC1=CC=CC=2N1C=CN2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromoimidazo[1,2-a]pyridine | 9.7 g, 100% | BrC1=CC=CC=2N1C=CN2 | C7H5BrN2
